US04622339
30.4 g (0.2 mole) of hexahydro-4,7-methano-iso-benzofuran-1(3H)-one are introduced into 800 ml of absolute toluene, under an inert gas, and 84.8 ml (0.3 mole) of sodium bis-(2-methoxy-ethoxy)-dihydridoaluminate (70% strength solution in toluene), diluted with 200 ml of absolute toluene, are allowed to run in at -70° to -78° C. The mixture is stirred at -70° to -78° C. for 6 hours. Thereafter, 580 ml of 50% strength aqueous methanol are added dropwise at -70° C. and the mixture is subsequently stirred at 20° C. for 15 minutes and diluted with 400 ml of saturated aqueous sodium chloride solution. The organic phase is separated off and the aqueous phase is extracted with ethyl acetate. The organic phases are combined, washed with saturated aqueous sodium chloride solution and dried over sodium sulphate and the solvent is evaporated off in vacuo. 30.1 g (98% yield) of 1-hydroxyoctahydro-4,7-methano-iso-benzofuran are obtained in this manner.

reactant | hexahydro-4,7-methano-iso-benzofuran-1(3H)-one | 0.2 mole, 30.4 g | C1(OCC2C3CCC(C12)C3)=O | C9H12O2
reactant | methanol | CO | CH4O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | sodium chloride | 400 ml | [Cl-].[Na+]
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
product | 1-hydroxyoctahydro-4,7-methano-iso-benzofuran | 30.1 g, 98% yield | OC1OCC2C3CCC(C12)C3 | C9H14O2
